US06734302B2
To a solution of 4-bromo-3-isopropoxy-phenol (0.50 g, 2.16 mmol) in acetone (3 mL) were added potassium carbonate (0.30 g, 2.16 mmol) and ethyl iodide (0.35 mL, 4.33 mmol). The reaction mixture was heated at gentle reflux for 12 h. The solvent was removed to give a white paste. It was then taken in diethyl ether (50 mL). The white solids were filtered off and the filtrate was concentrated. Purification of the residue by Biotage flash chromatography eluting with 10% ethyl acetate in hexanes gave 1-bromo-4-ethoxy-2-isopropoxy-benzene (0.48 g, 86%).

reactant | 4-bromo-3-isopropoxy-phenol | 2.16 mmol, 0.50 g | BrC1=C(C=C(C=C1)O)OC(C)C | C9H11BrO2
reactant | potassium carbonate | 2.16 mmol, 0.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 4.33 mmol, 0.35 mL | C(C)I | C2H5I
solvent | acetone | 3 mL | CC(=O)C | C3H6O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 1-bromo-4-ethoxy-2-isopropoxy-benzene | 0.48 g, 86% | BrC1=C(C=C(C=C1)OCC)OC(C)C | C11H15BrO2
